* UTIL-01: do the two channels stay out of each other's way?
*
* They share one thing, and SPEC.md names it as a risk: a single
* supply-derived offset reference normalled to both input jacks. Patching a
* cable into channel 1 lifts that channel's loading off the divider, the
* reference rises, and channel 2's idle output moves with it -- without
* anyone touching channel 2.
*
* That is the mechanism this deck measures. It is a DC shift in an offset
* voltage, which on a module used as a bipolar offset source is the output
* moving on its own.
*
* Budget: 50 mV at channel 2's output, with channel 2's pot fully clockwise
* so the shift is passed through at full gain. 50 mV on a +/-10 V range is
* 0.5%, under the 1% the SPEC already accepts for this reference, and it is
* a number to argue with rather than a law.

.include modules/_models/devices.lib
.include modules/attenuverter/sim/attenuverter.cir

Vpos P12_RAW 0 DC 12
Vneg N12_RAW 0 DC -12
* Channel 1's patch cable. A plug does two things at once and the deck has
* to do both: it opens the normalling switch AND connects a source. Wiring
* the source straight to the tip instead would drive the shared reference
* through the closed switch, which is a short that no unpatched jack has.
.param rp1=1G
Vsig CABLE1 0 DC 5
Rp1  CABLE1 IN1 {rp1}

.control
* Channel 2 idle and passing its offset through at full gain.
alterparam k_RV2 = 1

* Nothing patched anywhere: switch closed, no cable.
alterparam norm_J1 = 1m
alterparam rp1 = 1G
reset
op
* `reset` starts a new plot, so vectors do not survive it. Copy the numbers
* into shell variables, which do.
let t1 = v(OFFSET)
let t2 = v(OUT2)
set idle_ref = $&t1
set idle_out2 = $&t2

* A cable goes into channel 1: switch opens, cable connects. Channel 2 has
* not been touched.
alterparam norm_J1 = 1G
alterparam rp1 = 1m
reset
op
let busy_ref = v(OFFSET)
let busy_out2 = v(OUT2)
let ref_shift = busy_ref - $idle_ref
let out2_shift = busy_out2 - $idle_out2

echo "--- shared offset reference ---"
echo "idle:  reference $idle_ref V, channel 2 out $idle_out2 V"
print busy_ref busy_out2 ref_shift out2_shift

if abs(out2_shift) < 0.050
  echo "PASS  channel 2 moves less than 50 mV when channel 1 is patched"
else
  echo "FAIL  channel 2 moves when channel 1 is patched"
end
.endc
.end
